US05962437
2-Cyclohexenone is reacted with benzylamine to give 3-benzylaminocyclohexanone. Hydrogenolysis of the benzylamino group then gives 3-aminocyclohexanone. Reaction with hexadecanoyl chloride affords 3-hexadecanamidocyclohexanone, which is then reduced with sodium borohydride to produce a cis/trans mixture of 3-hexadecanamidocyclohexanol. Separation by column chromatography then gives the pure isomers. Reaction with bromoethylphosphodichloridate, then with trimethylamine will produce 3-hexadecanamidocyclohexylphosphocholine.

reactant | 2-Cyclohexenone | C1(C=CCCC1)=O | C6H8O
reactant | benzylamine | C(C1=CC=CC=C1)N | C7H9N
product | 3-benzylaminocyclohexanone | C(C1=CC=CC=C1)NC1CC(CCC1)=O | C13H17NO
